US07696223B2
b) {[2-(6-Butoxy-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid
To a solution of {[2-(6-butoxy-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid methyl ester (10.6 mg, 0.026 mmol) in methanol (1 mL) was added lithium hydroxide aqueous solution (1N, 0.51 mL) at ambient temperature. The reaction mixture was stirred at 50° C. for 1.5 h. After the solvent was evaporated off, 10 mL of water was added. The aqueous solution was adjusted to pH 2-3 by addition of 1N hydrochloric acid, and extracted twice with ethyl acetate. The combined organic layers were dried, filtered, and concentrated to afford 6.5 mg of a white solid. MS: (+) m/z 403.3 (M+1).

reactant | {[2-(6-butoxy-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid methyl ester | 0.026 mmol, 10.6 mg | COC(CNC(=O)C1=C(C2=C(C=N1)N=C(S2)C=2C=NC(=CC2)OCCCC)O)=O | C19H20N4O5S
reactant | lithium hydroxide | 1N, 0.51 mL | [OH-].[Li+]
solvent | methanol | 1 mL | CO | CH4O
product | {[2-(6-Butoxy-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid | 6.5 mg | C(CCC)OC1=CC=C(C=N1)C=1SC2=C(C=NC(=C2O)C(=O)NCC(=O)O)N1 | C18H18N4O5S
